Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___
 
Chief Complaint:
Dehydration and resumption of velcade/dexamethasone
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old man with history of multiple myeloma, hypertension 
and diabetes, vertebroplasty on ___ and discharged just 
recently to rehab. Presented on ___ to clinic for velcade and 
dexamethasone which he did receive. Now w/ elevated cr and 
calcium. Needs IVF so admitted from clinic. He does endorse some 
mild nausea today and one episode of emesis that was non-bloody. 
He also endorses constipation and his last bowel movement was 4 
days ago.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, diarrhea, BRBPR, melena, 
hematochezia, dysuria, hematuria.  

 
Past Medical History:
1. Multiple myeloma: Diagnosed ___. Initial presentation 
sinus congestion --> found to have rapidly growing mass in left 
paranasal sinus --> ENT endoscopic biopsy ___ --> 
plasmocytoma --> BMBx ___ --> myeloma. No lytic lesions on 
skeletal survey. Chemotherapy with Velcade and dexamethasone 
started ___.  
2. Type 2 DM: Last A1c 8.0% ___. In setting of starting 
steroids, recent ___ in the 300-400s. Has been on metformin and 
glyburide, PCP would like to start insulin this week.  
3. Hypertension: Reports BP's at home have been "normal" per 
machine he uses. Recent BPs at PCP 120s/70s. BP in ED 159/75  
4. Hypercholesterolemia: On Atorvastatin. Last cholesterol 147 
___  
5. Essential tremor  
6. Hypothyroidism: History of Grave's disease. Was rx'd with 
radioactive iodine. Currently hypothyroid on ___ mcg levoxyl qd. 
 
7. Hyperparathyroidism: Borderline hypercalcemia. Increased 
parathyroid uptake c/w adenoma seen on parathyroid scan in 
___.  
8. Lactose intolerance: Drinks milk but ? whether has caused 
diarrhea along with recent chemo  
 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals - T: 98 BP: 191/88 HR: 72 RR: 18 02 sat: 100% on RA  
GEN: AAOx3. Tired-appearing, able to answer questions clearly.  
Medium frequency essential tremor most prominent in bilateral  
hands and jaw.  
HEENT: PERRL, EOMI. CN II-XII grossly intact bilaterally.  
Oropharynx moist without lesions or exudate. No JVD. Bilateral  
exophthalmos.  
HEART: RRR, nl S1, S2, no murmurs, rubs or gallops  
LUNGS: CTAB no wheeze, rales or rhonchi  
ABD: NABS. Midline ventral hernia. Soft, non-tender, no masses 
or HSM appreciable  
EXT: 2+ DP pulses bilaterally. No cyanosis  
SKIN: Hyperpigmented lesions in T7/8 dermatome on right side 
with no crossing of the midline.  

 
Pertinent Results:
___ 09:56PM URINE  HOURS-RANDOM UREA N-761 CREAT-86 
SODIUM-112 POTASSIUM-24 CHLORIDE-129
___ 09:56PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:56PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 09:56PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 01:00PM   GLUCOSE-221*
___ 01:00PM   UREA N-26* CREAT-1.4* SODIUM-135 
POTASSIUM-4.9 CHLORIDE-98 TOTAL CO2-27 ANION GAP-15
___ 01:00PM   ALT(SGPT)-13 AST(SGOT)-15 ALK PHOS-141*
___ 01:00PM   ALBUMIN-4.2 CALCIUM-10.7* PHOSPHATE-2.5* 
MAGNESIUM-1.9
___ 01:00PM   PTH-131*
___ 01:00PM   WBC-16.1* RBC-3.91* HGB-12.0* HCT-35.9* 
MCV-92 MCH-30.8 MCHC-33.6 RDW-15.3
___ 01:00PM   NEUTS-82.9* LYMPHS-11.9* MONOS-4.7 EOS-0.3 
BASOS-0.2
___ 01:00PM   PLT COUNT-309
___ 01:00PM   ___ ___

 
Brief Hospital Course:
___ year old man with history of multiple myeloma admitted for 
management of hypercalcemia and acute renal failure, resolved 
with fluids.  
  
# Hypercalcemia: Looks to have a h/o hypercalcemia from 
hyperparathyroidism. Mild on admission, resolved after first 
night with fluids.
  
# Acute renal failure: Baseline Cr of 0.9-1.0 on ___ but 
creatinine was already elevated to 1.4 on ___. Was prerenal and 
resolved after first night with fluids, Cr to 1.0-1.1 
(baseline).
  
# Zoster: rash resolving. Was still receiving acyclovir at 
rehab, continued here.   
  
# Multiple myeloma:  Pt. had cycle 3 (Day 8) of 
velcade/dexamethasone, tolerated well, started on ISS with 
lantus 20 units each day during dexamethasone administrations 
for better glucose control.
  
# Hypertension: Hypertensive on arrival but w/o sx of HA or CP, 
was restarted on moexipril after acute renal failure resolved, 
and had regular blood pressure control.
  
# Back pain: ___ compression fracture s/p vertebroplasty, 
continued fentanyl patch, oxycodone prn, lidocaine patch 

 
Medications on Admission:
1. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 

2. Glipizide 10 mg Tablet Sig: Two (2) Tablet PO twice a day.  
3. Moexipril 15 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 

times a day).  
5. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical 12 HOURS ON, 12 HOURS 
OFF ().  
6. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Clotrimazole 10 mg Troche Sig: One (1) Troche Mucous membrane 

QID (4 times a day) as needed.  
8. Propranolol 120 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
9. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
10. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for back pain.  
11. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
12. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day). 

13. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed.  
14. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
15. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  

 
Discharge Medications:
1. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
2. Glipizide 10 mg Tablet Sig: Two (2) Tablet PO twice a day.
Disp:*120 Tablet(s)* Refills:*2*
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily) as 
needed for to spine.
Disp:*1 month supply* Refills:*0*
5. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Clotrimazole 10 mg Troche Sig: One (1)  Mucous membrane four 
times a day as needed.
Disp:*1 bottle* Refills:*0*
7. Propranolol 120 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).
Disp:*30 Capsule, Sust. Release 24 hr(s)* Refills:*2*
8. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q8H (every 8 
hours).
Disp:*90 Capsule(s)* Refills:*2*
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
10. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).
Disp:*1 month supply* Refills:*0*
11. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
12. Bisacodyl 5 mg Tablet Sig: Two (2) Tablet PO once a day as 
needed for constipation.
Disp:*30 Tablet(s)* Refills:*0*
13. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
14. Moexipril 15 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): please hold for BP < 100.
Disp:*60 Tablet(s)* Refills:*2*
15. Dexamethasone 4 mg Tablet Sig: Five (5) Tablet PO once a day 
for 1 days: to be given ___.
Disp:*5 Tablet(s)* Refills:*0*
16. Lantus 100 unit/mL Solution Sig: Fourteen (14) units 
Subcutaneous once for 1 doses.
Disp:*1 dose* Refills:*0*
17. Syringe with Needle (Disp) ___ mL 28 x ___  Syringe Sig: One 
(1) syringe Miscellaneous once for 1 doses.
Disp:*1 syringe* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
primary: dehydration, acute renal failure 
. 
secondary: 
1. Multiple myeloma  
2. Type 2 DM: Last A1c 8.0% ___. In setting of starting  
steroids, recent ___ in the 300-400s. Has been on metformin and  
glyburide, PCP would like to start insulin.  
3. Hypertension 
4. Hypercholesterolemia: On Atorvastatin. Last cholesterol 147  
___  
5. Essential tremor  
6. Hypothyroidism: History of Grave's disease. Was rx'd with  
radioactive iodine. Currently hypothyroid on ___ mcg levoxyl qd. 
 
7. Hyperparathyroidism: Borderline hypercalcemia. Increased  
parathyroid uptake c/w adenoma seen on parathyroid scan in  
___.  
8. Lactose intolerance: Drinks milk but ? whether has caused  
diarrhea along with recent chemo 

 
Discharge Condition:
afebrile, BP 150/80, HR 58, R 18 99% on RA

 
Discharge Instructions:
You were admitted to the hospital with dehydration which 
improved with IV fluids. Your symptoms improved with hydration. 
You should continue your routine oncology follow-up.
.
Medication changes:
You should take one dose of dexamethasone tomorrow morning as 
prescribed with 14 Units of Lantus via injection once with the 
steroids.
Otherwise no changes to your medication regimen.
.
You should return to the ED and call your primary oncologist if 
you experience any chest pain, shortness of breath, or abdominal 
pain.
 
Followup Instructions:
___